US07671056B2
2) 3-{4-[4-(2-methoxyphenyl)-1-piperazinyl]-1-piperidinyl}-1,2-benzisoxazole
1,2-benz-isoxazole-3-trifluoromethyl sulfonate I (Step 1, 0.50 g) and 4-(4-(2-methoxyphenyl)piperazin-1-yl)piperidine (Example G, Step 2, above, 0.514 g) were added to a cold suspension of CsCO3 (0.92 g) in acetonitrile (6 mL) under vigorous stirring. The reaction mixture was stirred at room temperature for 48 hours. The mixture was then filtered and concentrated on a rotary evaporator. The residue was dissolved in water extracted with CH2Cl2, dried over anhydrous MgSO4, filtered and concentrated on a rotary evaporator. The desired product was purified by flash chromatography on silica gel using ethyl acetate/hexane to give 0.34 g as an off-white solid; MP 71-73° C.; MS (ES) m/z (relative intensity): 393 (M+H)+ (100).

reactant | 4-(4-(2-methoxyphenyl)piperazin-1-yl)piperidine | COC1=C(C=CC=C1)N1CCN(CC1)C1CCNCC1 | C16H25N3O
reactant | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 3-{4-[4-(2-methoxyphenyl)-1-piperazinyl]-1-piperidinyl}-1,2-benzisoxazole | COC1=C(C=CC=C1)N1CCN(CC1)C1CCN(CC1)C1=NOC2=C1C=CC=C2 | C23H28N4O2
